US07196085B2
4-Chlorobutyryl chloride (5.42 g, 38.4 mmol) was added dropwise at ambient temperature to a stirred mixture of 4-(3-aminobenzyl)-2H-phthalazin-1-one (8 g, 32 mmol; prepared in a manner similar to that described above), triethylamine (5.35 ml, 38.4 mmol) and 1,4-dioxane (40 ml), the mixture was stirred at ambient temperature for 1 hour, then it was poured into ice-water (100 ml). The resulting solid was collected by filtration, washed with water (30 ml) and dried in vacuo to give 4-chloro-N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]butyramide (12.34 g) as an off-white solid, m.pt. 180–184° C.

reactant | 4-Chlorobutyryl chloride | 38.4 mmol, 5.42 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 4-(3-aminobenzyl)-2H-phthalazin-1-one | NC=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1 | C15H13N3O
reactant | triethylamine | 38.4 mmol, 5.35 ml | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]butyramide | 12.34 g | ClCCCC(=O)NC1=CC(=CC=C1)CC1=NNC(C2=CC=CC=C12)=O | C19H18ClN3O2
